US04948795
To a solution of 2-(3-pyridyl)thiazolidine-4-carboxylic acid 2.1 g, 1-(2-pyrimidinyl)piperazine.2 hydrochyloride 2.2 g, triethylamine 1.8 g, 1-hydroxybenzotriazole 1.5 g and N,N-dimethylformamide 30 ml was added dicyclohexylcarbodiimide 2.0 g under cooling and the mixture was stirred overnight at room temperature. The resultant dicyclohexylurea was distilled off, ethyl acetate 100 ml and water 50 ml were added to the filtrate and the solution was basified by addition of potassium carbonate. The organic layer was separated and the aqueous layer extracted with ethyl acetate. The organic layer and extract were combined, washed successively with water and saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethanol to give 0.8 g of 1-[2-(3-pyridyl)thiazolidine-4-ylcarbonyl]-4-(2-pyrimidinyl)piperazine.

reactant | 2-(3-pyridyl)thiazolidine-4-carboxylic acid | 2.1 g | N1=CC(=CC=C1)C1SCC(N1)C(=O)O | C9H10N2O2S
reactant | 1-(2-pyrimidinyl)piperazine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | 1-hydroxybenzotriazole | 1.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 2.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
product | 1-[2-(3-pyridyl)thiazolidine-4-ylcarbonyl]-4-(2-pyrimidinyl)piperazine | 0.8 g | N1=CC(=CC=C1)C1SCC(N1)C(=O)N1CCN(CC1)C1=NC=CC=N1 | C17H20N6OS
